US05043142
Further, to a solution of 1.05 g (1.58 mmol) of 1,7-bis(4-bromophenyl)-4-(tert-butyldiphenylsiloxy)heptane in dry tetrahydrofuran (50 ml) was added a 1.60M hexane solution of n-butyllithium (2.15 ml, 3.44 mmol) in the atmosphere of argon, and the mixture was allowed to react at -78° C. for 30 min. To the solution was added 1.20 ml (16.3 mmol) of acetone, and the mixture was reacted at -78° C. for 10 min. followed by addition of a saturated aqueous solution of ammonium chloride and extraction with ethyl acetate. The organic layer was washed with water and concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography for separation and purification. Elution with dichloromethane-methanol (100:1) yielded 728 mg (1.23 mmol) of 1,7-bis[4-(α-hydroxyisopropyl)phenyl]-4-(tert-butyldiphenylsiloxy)heptane.

reactant | 1,7-bis(4-bromophenyl)-4-(tert-butyldiphenylsiloxy)heptane | 1.58 mmol, 1.05 g | BrC1=CC=C(C=C1)CCCC(CCCC1=CC=C(C=C1)Br)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C35H40Br2OSi
reactant | n-butyllithium | 3.44 mmol, 2.15 ml | C(CCC)[Li]
reactant | acetone | 16.3 mmol, 1.20 ml | CC(=O)C | C3H6O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | hexane | 1.60M | CCCCCC | C6H14
product | 1,7-bis[4-(α-hydroxyisopropyl)phenyl]-4-(tert-butyldiphenylsiloxy)heptane | 1.23 mmol, 728 mg | OC(C)(C)C1=CC=C(C=C1)CCCC(CCCC1=CC=C(C=C1)C(C)(C)O)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C41H54O3Si
